US08076345B2
5-Cyclopropyl-2-{4-[(6-trifluoromethyl-pyridin-3-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile
To a mixture of 5-bromo-2-(4-((6-(trifluoromethyl)pyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (13 mg, 0.026 mmol), cyclopropylboronic acid (3.0 mg, 0.034 mmol), potassium phosphate (20 mg, 0.093 mmol), tricyclohexylphosphine (2.5 mg, 0.0090 mmol), toluene (2.0 mL), and water (0.04 mL) under argon was added palladium acetate (1.0 mg, 0.0044 mmol). The mixture was heated at 100° C. for 3 h and then cooled to rt. Water (10 mL) and EtOAc (100 mL) were added. The organic layer was separated and washed with brine, dried (Na2SO4), and concentrated. The residue was purified by semi-preparative HPLC to yield a white solid (7 mg, 58%).

reactant | 5-bromo-2-(4-((6-(trifluoromethyl)pyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 0.026 mmol, 13 mg | BrC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)C(F)(F)F)CC1 | C21H16BrF3N6
reactant | cyclopropylboronic acid | 0.034 mmol, 3.0 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 0.093 mmol, 20 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.0090 mmol, 2.5 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | palladium acetate | 0.0044 mmol, 1.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | Water | 10 mL | O | H2O
solvent | water | 0.04 mL | O | H2O
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Cyclopropyl-2-{4-[(6-trifluoromethyl-pyridin-3-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile | 7 mg, 58% | C1(CC1)C=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)C(F)(F)F)CC1 | C24H21F3N6
